US08003662B2
Step D: Preparation of 4-(4-fluorophenyl)-3-oxo-3,4-dihydropyrazine-2-carbonitrile:
A mixture of 3-chloro-1-(4-fluorophenyl)pyrazin-2(1H)-one (1.0 g, 4.5 mmol), dppf (0.25 g, 0.45 mmol), Pd2(dba3) (0.20 g, 0.22 mmol) and Zn(CN)2 (0.31 g, 2.7 mmol) in N-methylpyrrolidone (20 mL) was heated at 120° C. for 15 hours in a sealed vial. The residue was cooled to room temperature, treated with EtOAc (300 mL), washed with a solution of saturated aq. NH4Cl, conc. NOH, water (72 mL, a ratio of 4:1:4) and brine, dried over MgSO4, and concentrated. The crude was purified by silica gel flash column chromatography (100% CH2Cl2) to afford 0.77 g (80%) of the desired product. LRMS (ESI pos) m/e 216.0 (M+1). 1H-NMR (400 MHz, CDCl3) δ 7.58 (d, 1H), 7.46 (d, 1H), 7.42 (m, 2H), 7.26 (m, 2H); 19F-NMR (376 MHz, CDCl3) δ −109.6.

reactant | 3-chloro-1-(4-fluorophenyl)pyrazin-2(1H)-one | 4.5 mmol, 1.0 g | ClC=1C(N(C=CN1)C1=CC=C(C=C1)F)=O | C10H6ClFN2O
reactant | EtOAc | 300 mL | CCOC(=O)C | C4H8O2
reactant | N-methylpyrrolidone | 20 mL | CN1C(CCC1)=O | C5H9NO
catalyst | dppf | 0.45 mmol, 0.25 g | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.[Fe+2]
catalyst | Zn(CN)2 | 2.7 mmol, 0.31 g | [C-]#N.[C-]#N.[Zn+2]
product | 4-(4-fluorophenyl)-3-oxo-3,4-dihydropyrazine-2-carbonitrile | 0.77 g, 80% | FC1=CC=C(C=C1)N1C(C(=NC=C1)C#N)=O | C11H6FN3O
